US05334716
To a stirred solution of ethyl 4-[1-(3-aminobenzoyl)indolizin-3-yl]butyrate (320 mg) in methylene chloride (10 ml) was added diisopropylethylamine (0.22 ml) and bis(4-isobutylphenyl)chloromethane (340 mg) in methylene chloride (5 ml) at room temperature. After stirring for 18 hours, the reaction mixture was evaporated and extracted with ether. The organic layers were washed with water and brine and dried over sodium sulfate. After evaporation of the solvent, the residue was chromatographed on silica gel (methylene chloride:ethyl acetate=20:1) to give ethyl 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyrate (279 mg).

reactant | ethyl 4-[1-(3-aminobenzoyl)indolizin-3-yl]butyrate | 320 mg | NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=CC1 | C21H22N2O3
reactant | diisopropylethylamine | 0.22 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bis(4-isobutylphenyl)chloromethane | 340 mg | C(C(C)C)C1=CC=C(C=C1)C(Cl)C1=CC=C(C=C1)CC(C)C | C21H27Cl
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyrate | 279 mg | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=CC1 | C42H48N2O3
